US07091353B2
3-(Acetylamino-methyl)-phthalic acid dimethyl ester
Triethylamine (1.87 g, 18 mmol) was added slowly to a stirred suspension of methyl-3-(aminomethyl)-2-(methoxycarbonyl)benzoate hydrochloride (2.0 g, 8 mmol) in dichloromethane (30 ml). The resulting mixture was cooled in an ice bath to 4° C. Acetyl chloride (0.73 g, 9 mmol) was added dropwise at a rate such that the temperature stayed between 4–7° C. After addition was complete, the mixture was stirred in the ice bath for an additional 30 minutes and then allowed to warm to room temperature and maintained for 2 hours. The reaction mixture was washed with water (2×30 ml), brine (30 ml) and dried. Solvent was removed in vacuo and the product was purified by chromatography (dichloromethane/ethyl acetate 6 to 4) to afford 1.65 g (80%) of the product as an oil: 1H NMR (CDCl3) δ 7.86 (d, J=7.7 Hz, 1H), 7.62 (d, J=7.6 Hz); 7.46 (t, J=7.7 Hz); 6.29 (b, 1H), 4.39 (d, J=6.1 Hz, 2H), 3.93 (s, 3H), 3.90 (s, 3H), 1.96 (s, 3H).

reactant | Triethylamine | 18 mmol, 1.87 g | C(C)N(CC)CC | C6H15N
reactant | methyl-3-(aminomethyl)-2-(methoxycarbonyl)benzoate hydrochloride | 8 mmol, 2.0 g | Cl.COC(C1=C(C(=CC=C1)CN)C(=O)OC)=O
reactant | Acetyl chloride | 9 mmol, 0.73 g | C(C)(=O)Cl | C2H3ClO
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 3-(Acetylamino-methyl)-phthalic acid dimethyl ester | 1.65 g, 80% | COC(C=1C(C(=O)OC)=C(C=CC1)CNC(C)=O)=O | C13H15NO5
